US04496569
A mixture was prepared from 6 liters of 97% formic acid, 300 g of hydroxylamine hydrochloride, 500 g of sodium formate, and 700 g of 2-chloro-3-quinolinecarboxaldehyde and this mixture was heated to reflux (110° C.). The resulting solution was then maintained at 110° C. for 18 hours. The solution was then cooled and the solid which crystallized was separated by filtration and then successively washed twice with water, once with ethanol and once with methylene chloride to give 3-cyano-2(1H)-quinolinone.

reactant | hydroxylamine hydrochloride | 300 g | Cl.NO
reactant | sodium formate | 500 g | C(=O)[O-].[Na+]
reactant | 2-chloro-3-quinolinecarboxaldehyde | 700 g | ClC1=NC2=CC=CC=C2C=C1C=O | C10H6ClNO
solvent | formic acid | 6 liters | C(=O)O | CH2O2
product | 3-cyano-2(1H)-quinolinone | C(#N)C=1C(NC2=CC=CC=C2C1)=O | C10H6N2O
